US08022222B2
A 500 mL round-bottomed flask was charged with tetrahydrofuran-2-carbonyl chloride oxime (2.6 g, 17.4 mmol), methanesulfonyl chloride (1.4 ml, 17.4 mmol), and Et2O (200 mL). Triethylamine (2.4 ml, 17.4 mmol) was added dropwise over about 1 minute and stirred at ambient temperature for 10 minutes. The resultant solids were filtered and the filtrate was concentrated. The resultant residue was purified on silica gel (100% DCM) to afford N-(methylsulfonyloxy)tetrahydrofuran-2-carbimidoyl chloride (2.1 g, 53.07% yield) as a white solid.

reactant | tetrahydrofuran-2-carbonyl chloride oxime | 17.4 mmol, 2.6 g | O1C(CCC1)C(Cl)=NO | C5H8ClNO2
reactant | methanesulfonyl chloride | 17.4 mmol, 1.4 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Triethylamine | 17.4 mmol, 2.4 ml | C(C)N(CC)CC | C6H15N
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | N-(methylsulfonyloxy)tetrahydrofuran-2-carbimidoyl chloride | 2.1 g, 53.07% yield | CS(=O)(=O)ON=C(C1OCCC1)Cl | C6H10ClNO4S
